US05969146
8.3. (R)-3-[6-(Hydroxymethyl)benzofuran-3-yl]-5-(methoxymethyl)oxazolidin-2-one
22 ml of a 2M solution (0.044 mol) of a borane-dimethyl sulphide complex in tetrahydrofuran are added, in two steps, to a solution of 3.3 g (0.011 mol) of methyl (R)-3-[5-(methoxymethyl)-2-oxooxazolidin-3-yl]benzofuran-6-carboxylate in 40 ml of tetrahydrofuran and the mixture is heated for five hours at 55° C. The mixture is hydrolysed with 1N hydrochloric acid. The mixture is poured into water and the product is extracted with dichloromethane. The organic phase is dried over sodium sulphate and concentrated under reduced pressure. The product is purified by chromatography on silica gel with a 99/1 mixture of dichloromethane and methanol. After crystallization from ethyl ether, 2.0 g of product are recovered.

reactant | methyl (R)-3-[5-(methoxymethyl)-2-oxooxazolidin-3-yl]benzofuran-6-carboxylate | 0.011 mol, 3.3 g | COC[C@H]1CN(C(O1)=O)C1=COC2=C1C=CC(=C2)C(=O)OC | C15H15NO6
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (R)-3-[6-(Hydroxymethyl)benzofuran-3-yl]-5-(methoxymethyl)oxazolidin-2-one | OCC1=CC2=C(C(=CO2)N2C(O[C@H](C2)COC)=O)C=C1 | C14H15NO5
